US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimdin-2-yl)oxy]-6-methylaminopicolinate
Into a photoreaction flask having a capacity of 1 l, 20.0 g (60 mmol) of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N,N-dimethylamino)picolinate and 1,300 ml of chloroform were charged and irradiated by a 400 W high pressure mercury lamp for 24 hours. Chloroform was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate=6:1 to 3:7) to obtain the desired product.

reactant | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N,N-dimethylamino)picolinate | 60 mmol, 1 l, 20.0 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)OC | C15H18N4O5
solvent | chloroform | 1,300 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-[(4,6-dimethoxypyrimdin-2-yl)oxy]-6-methylaminopicolinate | yield: 10.7% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)NC)C(=O)OC | C14H16N4O5
